US04564386
To a solution of triethylamine (1.33 g) and N-ethyl-3-aminobenzenesulfonamide (2.5 g) in chloroform (50 ml), trifluoromethanesulfonic anhydride (3.6 g) was dropwise added while stirring. Upon completion of the addition, the resultant mixture was heated and refluxed for 3 hours. The reaction mixture was washed with 5% hydrochloric acid and concentrated to give a solid substance which was purified by silica gel column chromatography to give 1.88 g of N-ethyl-3-(trifluoromethanesulfonamido)benzenesulfonamide. M.P., 120.5°-124.5° C.

reactant | triethylamine | 1.33 g | C(C)N(CC)CC | C6H15N
reactant | N-ethyl-3-aminobenzenesulfonamide | 2.5 g | C(C)NS(=O)(=O)C1=CC(=CC=C1)N | C8H12N2O2S
reactant | trifluoromethanesulfonic anhydride | 3.6 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-ethyl-3-(trifluoromethanesulfonamido)benzenesulfonamide | 1.88 g | C(C)NS(=O)(=O)C1=CC(=CC=C1)NS(=O)(=O)C(F)(F)F | C9H11F3N2O4S2
